US20010027196A1
To a cooled (0° C.) stirred suspension of 1.6 g (6.9 mmol) 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile in 100 ml dichloromethane was added 3.6 g (20.7 mmol) m-chloroperbenzoic acid (70% purity) and stirring continued for 15 minutes at 0° C. The reaction mixture was then concentrated in vacuo and residue resuspended in 100 ml DME. To this stirred suspension were added 0.47 g (3.4 mmol) tyramine and 1.4 ml (10.3 mmol) DBU and the mixture heated at 100° C. for 1 hour. The reaction mixture was then concentrated in vacuo. Chromatography (ethyl acetate) followed by trituration in ether afforded 160 mg (5%) 3-chloro-benzoic acid 4-[2-(2-amino-5-cyano-6-furan-2-yl-pyrimidin-4-ylamino)-ethyl]-phenyl ester as a white crystalline solid. ES-MS m/e (%): 484 (M{37Cl}+Na+, 10), 482 (M{35Cl}+Na+, 25), 462 (M{37Cl}+H+, 35), 460 (M{35Cl}+H+, 100).

reactant | 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile | 6.9 mmol, 1.6 g | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)SC | C10H8N4OS
reactant | m-chloroperbenzoic acid | 20.7 mmol, 3.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | tyramine | 3.4 mmol, 0.47 g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | DBU | 10.3 mmol, 1.4 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-chloro-benzoic acid 4-[2-(2-amino-5-cyano-6-furan-2-yl-pyrimidin-4-ylamino)-ethyl]-phenyl ester | 160 mg, 5% | NC1=NC(=C(C(=N1)NCCC1=CC=C(C=C1)OC(C1=CC(=CC=C1)Cl)=O)C#N)C=1OC=CC1 | C24H18ClN5O3
